US05418237
A solution of 2.6 g of 3-(4-chlorobutyl)-5-indolylurea [obtainable by reacting 5-nitroindole with 4-chlorobutyryl chloride to give 3-(4-chlorobutyryl)-5nitroindole, reduction with diborane to give 3-(4-chlorobutyl)-5-nitroindole hydrogenation to 3-(4-chlorobutyl)-5-aminoindole and reaction with KCNO] and 16.3 g of 1-phenylpiperazine in ("A") in 200 ml of acetonitrile is stirred for 12 hours at 20° and worked up in a conventional manner to give 3-[4-(4-phenylpiperazino)butyl]-5-indolylurea, hydrochloride, m.p. 207° (dec.).

reactant | 3-(4-chlorobutyl)-5-indolylurea | 2.6 g | ClCCCCC1=CNC2=CC=C(C=C12)NC(=O)N | C13H16ClN3O
reactant | 1-phenylpiperazine | 16.3 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-[4-(4-phenylpiperazino)butyl]-5-indolylurea, hydrochloride | Cl.C1(=CC=CC=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)NC(=O)N | InChI=1S/C23H29N5O.ClH/c24-23(29)26-19-9-10-22-21(16-19)18(17-25-22)6-4-5-11-27-12-14-28(15-13-27)20-7-2-1-3-8-20;/h1-3,7-10,16-17,25H,4-6,11-15H2,(H3,24,26,29);1H
